US07417055B2
2-{Hydroxy-[2-(4-{4-[4-methyl-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-phenylcarbamoyl]-benzyl}-piperazin-1-yl)-ethyl]-phosphinoyloxy}-propionic acid
To a solution of 2-{[2-(4-{4-[4-methyl-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-phenylcarbamoyl]-benzyl}-piperazin-1-yl)-ethyl]-phenoxy-phosphinoyloxy}-propionic acid ethyl ester (6 mg, 0.008 mmol) in 2:1 acetonitrile/water (0.3 mL) was added 1N NaOH (50 μL, 0.048 mmol). The solution was allowed to stir at room temperature for 1 hour when completion of the reaction was observed by LCMS. The reaction was acidified by 1N HCl (50 μL) solution and purified by RP HPLC using a C18 column with a gradient of H2O— Acetonitrile (5-100%) over 20 minutes to provide 2 mg (38%) of the product. 1H NMR (300 MHz, CD3OD) δ 1.51 (d, 3H, J=7 Hz), 2.04 (m, 2H), 2.33 (s, 3H), 2.96 (bs, 4H), 3.31 (m, 2H), 3.4 (bs, 4H), 3.89 (s, 2H), 4.88 (1H, possible overlap with solvent), 7.30 (m, 2H), 7.48-7.57 (m, 4H), 7.96-7.99 (m, 4H), 8.32 (s, 1H), 8.56 (d, 1H, J=5 Hz), 8.86 (d, 1H, J=2 Hz), 9.10 (dd, 1H, J=2, 5 Hz), 9.59 (s, 1H); 31P (121.4 MHz, CD3OD) δ 20.0; MS (m/z) 660 [M+H]+.

reactant | 2-{[2-(4-{4-[4-methyl-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-phenylcarbamoyl]-benzyl}-piperazin-1-yl)-ethyl]-phenoxy-phosphinoyloxy}-propionic acid ethyl ester | 0.008 mmol, 6 mg | C(C)OC(C(C)OP(=O)(OC1=CC=CC=C1)CCN1CCN(CC1)CC1=CC=C(C=C1)C(NC1=CC(=C(C=C1)C)NC1=NC=CC(=N1)C=1C=NC=CC1)=O)=O | C41H46N7O6P
reactant | NaOH | 0.048 mmol, 1N, 50 μL | [OH-].[Na+]
reactant | HCl | 1N, 50 μL | Cl | ClH
solvent | acetonitrile water | 0.3 mL | C(C)#N.O
product | 2-{Hydroxy-[2-(4-{4-[4-methyl-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-phenylcarbamoyl]-benzyl}-piperazin-1-yl)-ethyl]-phosphinoyloxy}-propionic acid | 2 mg, 38% | OP(=O)(OC(C(=O)O)C)CCN1CCN(CC1)CC1=CC=C(C=C1)C(NC1=CC(=C(C=C1)C)NC1=NC=CC(=N1)C=1C=NC=CC1)=O | C33H38N7O6P
